US08168412B2
After 2.5 hours in reaction, 0.625 g of N-Boc-3-pyrrolidinone, 0.91 g of D-glucose, 1.8 g of L-alanine, and 3.3 mg of pyridoxal phosphate were added. Further, after five hours in reaction, 0.625 g of N-Boc-3-pyrrolidinone, 0.91 g of D-glucose, and 3.3 mg of pyridoxal phosphate were added. Furthermore, after nine hours in reaction, 0.25 g of N-Boc-3-pyrrolidinone, 0.36 g of D-glucose, 19 mg of NAD+, and 3.3 mg of pyridoxal phosphate were added. During the reaction, the reaction liquid was sampled. From the sample, N-Boc-3-aminopyrrolidine was extracted by the addition of ethyl acetate after basifying the sample with 6 N aqueous solution of sodium hydroxide. The amount of N-Boc-3-aminopyrrolidine produced was measured by analyzing N-Boc-3-aminopyrrolidine under the following GC conditions. Further, by the law of the art, N-Boc-3-aminopyrrolidine thus obtained was acted on by 3,5-dinitrobenzyl chloride to form a dinitrobenzyl derivative. After that, the dinitrobenzyl derivative was analyzed under the following HPLC conditions, whereby the optical purity thereof was measured. In the result, the amount of N-Boc-3-aminopyrrolidine produced after 23 hours in reaction was 2.14 g. The absolute configuration of N-Boc-3-aminopyrrolidine was (S), and the optical purity was 99.4% e.e.

reactant | N-Boc-3-pyrrolidinone | 0.625 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | D-glucose | 0.91 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-alanine | 1.8 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | N-Boc-3-pyrrolidinone | 0.625 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | D-glucose | 0.91 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | N-Boc-3-pyrrolidinone | 0.25 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | D-glucose | 0.36 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NAD+ | 19 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
product | N-Boc-3-aminopyrrolidine | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
